### PR TITLE
[Merged by Bors] - chore(MeasureTheory/Function/LpSeminorm/Basic): generalise more results to enorm classes

### PR DESCRIPTION
**Pull request by grunweg**
Cherry-picked from #21712; not exhaustive. Made as part of the Carleson project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 1]
```diff
@@ -1054,23 +1070,27 @@ theorem enorm_ae_le_eLpNormEssSup {_ : MeasurableSpace α} (f : α → ε) (μ :
...
 
 @[simp]
-theorem eLpNormEssSup_eq_zero_iff {f : α → F} : eLpNormEssSup f μ = 0 ↔ f =ᵐ[μ] 0 := by
+theorem eLpNormEssSup_eq_zero_iff {ε} [TopologicalSpace ε] [ENormedAddMonoid ε] {f : α → ε} :
+    eLpNormEssSup f μ = 0 ↔ f =ᵐ[μ] 0 := by
   simp [EventuallyEq, eLpNormEssSup_eq_essSup_enorm]
 
-theorem eLpNorm_eq_zero_iff {f : α → E} (hf : AEStronglyMeasurable f μ) (h0 : p ≠ 0) :
-    eLpNorm f p μ = 0 ↔ f =ᵐ[μ] 0 := by
+theorem eLpNorm_eq_zero_iff {ε} [TopologicalSpace ε] [ENormedAddMonoid ε] {f : α → E}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:1077]: Do you really want to keep `f` with values in `E`, or should it be in epsilon? If you fix this, I guess you can remove several weird type annotations from the PR.

Comment (grunweg) [reply Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean]: Good catch! Fixing this required a few more generalisations, but that should be nicer indeed.

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 2]
```diff
@@ -330,6 +329,7 @@ theorem eLpNorm'_const (c : ε) (hq_pos : 0 < q) :
   suffices hq_cancel : q * (1 / q) = 1 by rw [hq_cancel, ENNReal.rpow_one]
   rw [one_div, mul_inv_cancel₀ (ne_of_lt hq_pos).symm]
 
+-- Generalising this to ENormedAddMonoid means requiring c ≠ ⊤.
```
Comment (fpvandoorn) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:332]: Does it? Statement looks right for `c = ⊤`, but I can imagine that in the proof you might have to do a case-split.

**Review by fpvandoorn — APPROVED** [review]
LGTM

bors d+

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:332]: Right: since I have performed this generalisation in #22721 already, let me just change the comment.
```suggestion
-- Generalising this to ENormedAddMonoid requires a case analysis whether ‖c‖ₑ = ⊤,
-- and will happen in a future PR.

**Review by grunweg — COMMENTED** [review]
Thanks for the review!
bors merge
